US07138395B2
Preparation of 2,6-dimethyl-benzoic acid 3-({2-benzenesulfonyl-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-decahydro-2,4a-diaza-benzocyclooctene-4-carbonyl}-amino)-4-tert-butoxycarbonyl-2-oxo-butyl ester (112):
To a solution of 2-benzenesulfonyl-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-decahydro-2,4a-diaza-benzocyclooctene-4-carboxylic acid, 111, (124 mg, 0.23 mmol) in dichloromethane is added EDCl (191 mg, 1 mmol), HOBt (135 mg, 1 mmol), 2,6-dimethyl-benzoic acid 3-amino-4-tert-butoxycarbonyl-2-oxo-butyl ester (200 mg, 0.62 mmol), and triethylamine (0.15 mL, 1 mmol). After consumption of the starting material, the reaction is diluted with EtOAc and washed with water, 1N HCl, saturated NaHCO3, and brine. The organic layer is concentrated in vacuo and the crude residue obtained is used directly in the next step without purification.

reactant | 2-benzenesulfonyl-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-decahydro-2,4a-diaza-benzocyclooctene-4-carboxylic acid | C1(=CC=CC=C1)S(=O)(=O)N1CC(N2C(CCCCC(C2=O)NC(=O)C2=NC=CC3=CC=CC=C23)C1)C(=O)O | C27H28N4O6S
reactant | EDCl | 1 mmol, 191 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1 mmol, 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2,6-dimethyl-benzoic acid 3-amino-4-tert-butoxycarbonyl-2-oxo-butyl ester | 0.62 mmol, 200 mg | NC(C(COC(C1=C(C=CC=C1C)C)=O)=O)CC(=O)OC(C)(C)C | C18H25NO5
reactant | triethylamine | 1 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,6-dimethyl-benzoic acid 3-({2-benzenesulfonyl-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-decahydro-2,4a-diaza-benzocyclooctene-4-carbonyl}-amino)-4-tert-butoxycarbonyl-2-oxo-butyl ester | C1(=CC=CC=C1)S(=O)(=O)N1CC(N2C(CCCCC(C2=O)NC(=O)C2=NC=CC3=CC=CC=C23)C1)C(=O)NC(C(COC(C1=C(C=CC=C1C)C)=O)=O)CC(=O)OC(C)(C)C | C45H51N5O10S
